US08049016B2
Synthesis of N-((1H-pyrazol-4-yl)methyl)-4-methyl-2-(2-oxo-3-(4,4,4-trifluorobutyl)imidazolidin-1-yl)thiazole-5-carboxamide
Following the procedure as describe in Example 12, making variations as required to replace (5-fluoropyridin-3-yl)methanamine with (1H-pyrazol-3-yl)methanamine to react with 4-methyl-2-(2-oxo-3-(4,4,4-trifluorobutyl)imidazolidin-1-yl)thiazole-5-carboxylic acid in place of 2-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid, the title compound was obtained as a colorless solid in 3% yield: 1H NMR (300 MHz, DMSO-d6) δ 12.58 (s, 1H), 8.34-8.32 (m, 1H), 7.58-7.57 (m, 1H), 6.14 (s, 1H), 4.37 (d, J=5.5 Hz, 2H), 4.02-3.96 (m, 2H), 3.59-3.53 (m, 2H), 3.33-3.28 (m, 2H), 2.46 (s, 3H), 2.32-2.26 (m, 2H), 1.76-1.71 (m, 2H); MS (ES+) m/z 416.7 (M+1).

reactant | (5-fluoropyridin-3-yl)methanamine | FC=1C=C(C=NC1)CN | C6H7FN2
reactant | (1H-pyrazol-3-yl)methanamine | N1N=C(C=C1)CN | C4H7N3
reactant | 4-methyl-2-(2-oxo-3-(4,4,4-trifluorobutyl)imidazolidin-1-yl)thiazole-5-carboxylic acid | CC=1N=C(SC1C(=O)O)N1C(N(CC1)CCCC(F)(F)F)=O | C12H14F3N3O3S
product | N-((1H-pyrazol-4-yl)methyl)-4-methyl-2-(2-oxo-3-(4,4,4-trifluorobutyl)imidazolidin-1-yl)thiazole-5-carboxamide | 3% yield | N1N=CC(=C1)CNC(=O)C1=C(N=C(S1)N1C(N(CC1)CCCC(F)(F)F)=O)C | C16H19F3N6O2S
